US04671982
Vinyl Acetate/Maleic Acid Anhydride Copolymerization
13 g (0.5 mole) of vinyl acetate, 49 g (0.5 mole) of maleic acid anhydride and 0.1 g of lauroyl peroxide were dissolved in 400 cc of benzene and heated for five hours at 70° C. The copolymer was precipitated from the viscous solution with petroleum ether (80° to 100° C.). The copolymer dissolved well in diluted caustic soda.

reactant | vinyl acetate | 0.5 mole, 13 g | C(C)(=O)OC=C | C4H6O2
reactant | maleic acid anhydride | 0.5 mole, 49 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | lauroyl peroxide | 0.1 g | C(CCCCCCCCCCC)(=O)OOC(CCCCCCCCCCC)=O | C24H46O4
solvent | benzene | 400 cc | C1=CC=CC=C1 | C6H6
product | Vinyl Acetate Maleic Acid Anhydride | C(C)(=O)OC=C.C1(\C=C/C(=O)O1)=O | InChI=1S/C4H2O3.C4H6O2/c5-3-1-2-4(6)7-3;1-3-6-4(2)5/h1-2H;3H,1H2,2H3
